US08476434B2
Synthesis of (S)-tert-butyl 2-((3-amino-5-(trifluoromethyl)phenoxy)methyl)pyrrolidine-1-carboxylate
A mixture of (S)-tert-butyl 2-((3-nitro-5-(trifluoromethyl)phenoxy)methyl)pyrrolidine-1-carboxylate (2.0 g, 5.1 mmol) and Pd/C (10%, 150 mg) in EtOH (30 ml) was stirred under H2 (1 atm) for 5 hr. The mixture was filtered through Celite and washed with MeOH. Evaporation of solvent gave the title product as a light amber oil. MS m/z=361 [M+H]+. Calc'd for C17H23F3N2O3: 360.38.

reactant | (S)-tert-butyl 2-((3-nitro-5-(trifluoromethyl)phenoxy)methyl)pyrrolidine-1-carboxylate | 5.1 mmol, 2.0 g | [N+](=O)([O-])C=1C=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C(C1)C(F)(F)F | C17H21F3N2O5
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | (S)-tert-butyl 2-((3-amino-5-(trifluoromethyl)phenoxy)methyl)pyrrolidine-1-carboxylate | NC=1C=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C(C1)C(F)(F)F | C17H23F3N2O3
